US08217064B2
To a solution of 2-(3-chloro-5-cyclopropylmethoxy-4-iodo-phenyl)-4-methyl-pentanoic acid cyclopropylmethyl ester (0.32 g, 0.67 mmol) in DME (anhydrous, 20 mL) under argon atmosphere were added 4-chlorophenylboronic acid (0.13 g, 0.83 mmol), CsF (0.24 g, 1.58 mmol), and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II) (0.05 g, 0.07 mmol). The reaction mixture was refluxed for 18 h (oil bath, 100° C.). A mixture of water and EtOAc (15 mL/15 mL) was added and the layers were separated. The organic phase was dried over MgSO4 and evaporated to give a crude yellow oil, which was purified by silica gel gradient column chromatography by use of Heptane-EtOAc (20:1-9:1) to give 2-(2,4′-dichloro-6-cyclopropylmethoxy-biphenyl-4-yl)-4-methyl-pentanoic acid cyclopropylmethyl ester (0.26 g, 87%) as a yellowish oil. 1H NMR (300 MHz, CDCl3/TMS): δ 7.37 (d, J=8.0 Hz, 2H), 7.24 (d, J=8.2 Hz, 2H), 7.07 (s, 1H), 6.86 (s, 1H), 3.96-3.89 (m, 2H), 3.76 (d, J=6.3 Hz, 2H), 3.63 (t, J=7.7 Hz, 1H), 2.04-1.95 (m, 1H), 1.71-1.48 (m, 2H), 1.21-1.00 (m, 2H), 0.94 (d, J=6.3 Hz, 6H), 0.55-0.48 (m, 4H), 0.27-0.15 (m, 4H). 13C NMR (75 MHz, CDCl3/TMS): δ 173.5, 157.1, 140.8, 133.7, 133.5, 133.0, 131.8, 128.1, 127.8, 121.5, 111.1, 73.2, 69.6, 49.6, 42.6, 26.1, 22.6, 22.5, 10.0, 9.8, 3.3, 3.0.

reactant | 2-(3-chloro-5-cyclopropylmethoxy-4-iodo-phenyl)-4-methyl-pentanoic acid cyclopropylmethyl ester | 0.67 mmol, 0.32 g | C1(CC1)COC(C(CC(C)C)C1=CC(=C(C(=C1)OCC1CC1)I)Cl)=O | C20H26ClIO3
reactant | 4-chlorophenylboronic acid | 0.83 mmol, 0.13 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | CsF | 1.58 mmol, 0.24 g | [F-].[Cs+]
reactant | water | O | H2O
solvent | DME | 20 mL | COCCOC | C4H10O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium | 0.07 mmol, 0.05 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | 2-(2,4′-dichloro-6-cyclopropylmethoxy-biphenyl-4-yl)-4-methyl-pentanoic acid cyclopropylmethyl ester | 0.26 g, 87% | C1(CC1)COC(C(CC(C)C)C1=CC(=C(C(=C1)OCC1CC1)C1=CC=C(C=C1)Cl)Cl)=O | C26H30Cl2O3
